US03950333
Potassium carbonate (7.75 g.) was added to a solution of 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole dihydrochloride (14.6 g.) in water (120 ml.). The solution was stored at room temperature for 15 minutes, then evaporated to dryness, extracted with isopropyl alcohol and the extracts are concentrated to dryness to give 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole.

reactant | Potassium carbonate | 7.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole dihydrochloride | 14.6 g | Cl.Cl.CC=1N=CNC1CSCCN
solvent | water | 120 ml | O | H2O
product | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole | CC=1N=CNC1CSCCN | C7H13N3S
